### PR TITLE
Adds additional properties to {Left,Right}Module

### PR DESCRIPTION
**Pull request by bsaul**
This PR adds additional properties to `Algebra.Module.Properties.LeftModule`. 

NOTE: I can also add the corresponding properties to `RightModule`, but I'll wait for any discussions of naming and appropriateness of the LeftModule properties to conclude first.

### CODE REVIEW

File: CHANGELOG.md [hunk 1]
```diff
@@ -155,6 +155,13 @@ Additions to existing modules
   ⊕-∧-booleanRing   : BooleanRing _ _
   ```
 
+* In `Algebra.Module.Properties.LeftModule`:
+  ```agda
+  -1#*m≈-ᴹm : ∀ m → - 1# *ₗ m ≈ᴹ -ᴹ m
+  -‿distribˡ-*ₗ : ∀ r m → - r *ₗ m ≈ᴹ -ᴹ (r *ₗ m)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: On naming: I think that there is no reason for the additional superscript `ˡ` on `distrib`, as this property is already governed by the *sub*script in `_*ₗ_`?
```suggestion
  -‿distrib-*ₗ : ∀ r m → - r *ₗ m ≈ᴹ -ᴹ (r *ₗ m)
```

File: CHANGELOG.md [hunk 2]
```diff
@@ -155,6 +155,13 @@ Additions to existing modules
...
+  -ᴹ‿distrib-*ₗ : ∀ r m → r *ₗ (-ᴹ m) ≈ᴹ -ᴹ (r *ₗ m)
```
Comment (jamesmckinna) [inline CHANGELOG.md:162]: Just as there is no additional 'handedness' annotation in this lemma statement; the argument positions to `_*ₗ_` do all the work in disambiguating the statement?

File: CHANGELOG.md [hunk 3]
```diff
@@ -155,6 +155,13 @@ Additions to existing modules
   ⊕-∧-booleanRing   : BooleanRing _ _
   ```
 
+* In `Algebra.Module.Properties.LeftModule`:
+  ```agda
+  -1#*m≈-ᴹm : ∀ m → - 1# *ₗ m ≈ᴹ -ᴹ m
```
Comment (jamesmckinna) [inline CHANGELOG.md]: I'm surprised this is posited first, and then used in the proof of `-‿distribˡ-*ₗ`, of which it would otherwise be a (much?) simpler corollary? See the suggested refactorings below...

File: src/Algebra/Module/Properties/LeftModule.agda [hunk 4]
```diff
@@ -23,3 +23,30 @@ open import Algebra.Properties.AbelianGroup +ᴹ-abelianGroup public
...
+  (- 1#) *ₗ (r *ₗ m) ≈⟨ -1#*m≈-ᴹm _ ⟩
+  -ᴹ (r *ₗ m )       ∎
+
+-ᴹ‿distrib-*ₗ : ∀ r m → r *ₗ (-ᴹ m) ≈ᴹ -ᴹ (r *ₗ m)
+-ᴹ‿distrib-*ₗ r m = uniqueʳ‿-ᴹ (r *ₗ m) (r *ₗ (-ᴹ m))
+  (begin
+    r *ₗ m +ᴹ r *ₗ (-ᴹ m) ≈⟨ *ₗ-distribˡ r m (-ᴹ m) ⟨
+    r *ₗ (m +ᴹ (-ᴹ m))    ≈⟨ *ₗ-congˡ (-ᴹ‿inverseʳ m) ⟩
+    r *ₗ 0ᴹ               ≈⟨ *ₗ-zeroʳ r ⟩
+    0ᴹ                    ∎)
```
Comment (jamesmckinna) [inline src/Algebra/Module/Properties/LeftModule.agda]: Refactored, including the naming suggestions, as:
```suggestion
-‿distrib-*ₗ : ∀ r m → - r *ₗ m ≈ᴹ -ᴹ (r *ₗ m)
-‿distrib-*ₗ r m = uniqueʳ‿-ᴹ (r *ₗ m) (- r *ₗ m) (begin
  r *ₗ m +ᴹ - r *ₗ m ≈⟨ *ₗ-distribʳ m r (- r) ⟨
  (r - r) *ₗ m       ≈⟨ *ₗ-congʳ (-‿inverseʳ r) ⟩
  0# *ₗ m            ≈⟨ *ₗ-zeroˡ m ⟩
  0ᴹ                 ∎)

-ᴹ‿distrib-*ₗ : ∀ r m → r *ₗ (-ᴹ m) ≈ᴹ -ᴹ (r *ₗ m)
-ᴹ‿distrib-*ₗ r m = uniqueʳ‿-ᴹ (r *ₗ m) (r *ₗ (-ᴹ m))
  (begin
    r *ₗ m +ᴹ r *ₗ (-ᴹ m) ≈⟨ *ₗ-distribˡ r m (-ᴹ m) ⟨
    r *ₗ (m +ᴹ (-ᴹ m))    ≈⟨ *ₗ-congˡ (-ᴹ‿inverseʳ m) ⟩
    r *ₗ 0ᴹ               ≈⟨ *ₗ-zeroʳ r ⟩
    0ᴹ                    ∎)

-1#*m≈-ᴹm : ∀ m → - 1# *ₗ m ≈ᴹ -ᴹ m
-1#*m≈-ᴹm m = begin
  - 1# *ₗ m    ≈⟨ -‿distrib-*ₗ 1# m ⟩
  -ᴹ (1# *ₗ m) ≈⟨ -ᴹ‿cong (*ₗ-identityˡ m) ⟩
  -ᴹ m         ∎
```

These proofs could be further 'improved' by replacing all the explicit arguments with `_`, I think, because the typechecker can insert them, but perhaps for documentation's sake, they should be left explicit? There's a redundancy/reuse question here if you were also to add the `RightModule` proofs, because it would minimise the amount of subscript changing you might otherwise have to do? (and even: renaming `_*ₗ_` locally to `_*_` to make the skeletal proof structure yet more portable? maybe a step to far as far as cognitive load on the reader is concerned...)

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Very nice addition, but I think the suggested renaming/refactorings make it 'better'?
(Open to debate on this, though! esp. with any 2nd reviewer...)

File: CHANGELOG.md (hunk 1 above)
Comment (bsaul) [reply CHANGELOG.md]: Good with me.

File: src/Algebra/Module/Properties/LeftModule.agda (hunk 4 above)
Comment (bsaul) [reply src/Algebra/Module/Properties/LeftModule.agda]: This looks good with me. Thanks!

Comment (bsaul) [reply src/Algebra/Module/Properties/LeftModule.agda]: > I think, because the typechecker can insert them, but perhaps for documentation's sake, they should be left explicit?

In my code, I had both the lemma arguments implicit (e.g. `∀ {m} → - 1# *ₗ m ≈ᴹ -ᴹ m`), as well as using `_` where arguments could be inferred. But I swtiched to explicit arguments when I ported these here-- it felt more consistent with the stdlib, but I don't have strong opinions on this.

File: CHANGELOG.md (hunk 3 above)
Comment (bsaul) [reply CHANGELOG.md]: Indeed, thanks.

**Review by jamesmckinna — APPROVED** [review]
Looks great now! Thanks for the prompt response to my feedback.

**Comment by Taneb** [comment]
This is very good! But I'd like to see the corresponding proofs on right modules as well in this PR

**Comment by jamesmckinna** [comment]
I agree with @Taneb regarding the `RightModule` case, but I'd understood that was part of the original intention?

**Comment by bsaul** [comment]
> I agree with @Taneb regarding the `RightModule` case, but I'd understood that was part of the original intention?

Yep. I'll add these soonish.

**Comment by bsaul** [comment]
Ok -- added RightModule properties.

File: CHANGELOG.md (hunk 1 above)
Comment (jamesmckinna) [reply CHANGELOG.md]: Did this change get propagated (to `CHANGELOG`)?

File: src/Algebra/Module/Properties/RightModule.agda [hunk 5]
```diff
@@ -23,3 +23,29 @@ open import Algebra.Properties.AbelianGroup +ᴹ-abelianGroup public
   renaming (inverseˡ-unique to inverseˡ-uniqueᴹ
            ; inverseʳ-unique to inverseʳ-uniqueᴹ
            ; ⁻¹-involutive to -ᴹ-involutive)
+
+open import Algebra.Properties.Ring ring
+
+open import Relation.Binary.Reasoning.Setoid ≈ᴹ-setoid
+
+-‿distrib-*ᵣ : ∀ m r → m *ᵣ (- r) ≈ᴹ -ᴹ (m *ᵣ r)
+-‿distrib-*ᵣ m r = uniqueʳ‿-ᴹ (m *ᵣ r) (m *ᵣ - r) (begin
```
Comment (jamesmckinna) [inline src/Algebra/Module/Properties/RightModule.agda]: So... I didn't catch this on the first round for `LeftModule`, despite having introduced these modules in #2571 to propagate (to the `IsAbelianGroup` structure of `XModule`s) the deprecation of `Algebra.Structures.IsGroup.uniqueʳ-⁻¹` in favour of `inverseʳ-unique`... and for whatever reason, the deprecation `WARNING` fails to fire (an old Agda issue...)
```suggestion
-‿distrib-*ᵣ m r = inverseʳ-uniqueᴹ (m *ᵣ r) (m *ᵣ - r) (begin
```

File: src/Algebra/Module/Properties/LeftModule.agda [hunk 6]
```diff
@@ -23,3 +23,28 @@ open import Algebra.Properties.AbelianGroup +ᴹ-abelianGroup public
   renaming (inverseˡ-unique to inverseˡ-uniqueᴹ
            ; inverseʳ-unique to inverseʳ-uniqueᴹ
            ; ⁻¹-involutive to -ᴹ-involutive)
+
+open import Algebra.Properties.Ring ring
+
+open import Relation.Binary.Reasoning.Setoid ≈ᴹ-setoid
+
+-‿distrib-*ₗ : ∀ r m → - r *ₗ m ≈ᴹ -ᴹ (r *ₗ m)
+-‿distrib-*ₗ r m = uniqueʳ‿-ᴹ (r *ₗ m) (- r *ₗ m) (begin
```
Comment (jamesmckinna) [inline src/Algebra/Module/Properties/LeftModule.agda]: As with `RightModule`, should have caught the deprecated usage!
```suggestion
-‿distrib-*ₗ r m = inverseʳ-uniqueᴹ (r *ₗ m) (- r *ₗ m) (begin
```

File: src/Algebra/Module/Properties/LeftModule.agda [hunk 7]
```diff
@@ -23,3 +23,28 @@ open import Algebra.Properties.AbelianGroup +ᴹ-abelianGroup public
...
+  r *ₗ m +ᴹ - r *ₗ m ≈⟨ *ₗ-distribʳ m r (- r) ⟨
+  (r - r) *ₗ m       ≈⟨ *ₗ-congʳ (-‿inverseʳ r) ⟩
+  0# *ₗ m            ≈⟨ *ₗ-zeroˡ m ⟩
+  0ᴹ                 ∎)
+
+-ᴹ‿distrib-*ₗ : ∀ r m → r *ₗ (-ᴹ m) ≈ᴹ -ᴹ (r *ₗ m)
+-ᴹ‿distrib-*ₗ r m = uniqueʳ‿-ᴹ (r *ₗ m) (r *ₗ (-ᴹ m))
+  (begin
```
Comment (jamesmckinna) [inline src/Algebra/Module/Properties/LeftModule.agda]: Ditto...
```suggestion
-ᴹ‿distrib-*ₗ r m = inverseʳ-uniqueᴹ (r *ₗ m) (r *ₗ (-ᴹ m)) (begin
```

File: src/Algebra/Module/Properties/RightModule.agda [hunk 8]
```diff
@@ -23,3 +23,29 @@ open import Algebra.Properties.AbelianGroup +ᴹ-abelianGroup public
...
+  m *ᵣ r +ᴹ m *ᵣ - r ≈⟨ *ᵣ-distribˡ m r (- r) ⟨
+  m *ᵣ (r - r)       ≈⟨ *ᵣ-congˡ (-‿inverseʳ r) ⟩
+  m *ᵣ 0#            ≈⟨ *ᵣ-zeroʳ m ⟩
+  0ᴹ                 ∎)
+
+-ᴹ‿distrib-*ᵣ : ∀ m r → (-ᴹ m) *ᵣ r ≈ᴹ -ᴹ (m *ᵣ r)
+-ᴹ‿distrib-*ᵣ m r = uniqueʳ‿-ᴹ (m *ᵣ r) ((-ᴹ m) *ᵣ r)
+  (begin
```
Comment (jamesmckinna) [inline src/Algebra/Module/Properties/RightModule.agda]: Ditto...
```suggestion
-ᴹ‿distrib-*ᵣ m r = inverseʳ-uniqueᴹ (m *ᵣ r) ((-ᴹ m) *ᵣ r) (begin
```

File: src/Algebra/Module/Properties/RightModule.agda (hunk 5 above)
Comment (bsaul) [reply src/Algebra/Module/Properties/RightModule.agda]: Yeah I didn’t see the deprecation warning either.

**Comment by jamesmckinna** [comment]
Nice! All looks great now. Will merge in the next 24 hours unless we hear objections!
